US05082943
Preparation of 2-(2-methylaminobenzylthio)imidazole
To a solution of 693 mg (6.9 mmol) of 2-mercaptoimidazole in 26 ml of ethanol was added 1.33 g (6.9 mmol) of 2-methylaminobenzyl chloride hydrochloride, and the mixture was stirred for 15 min. at room temperature. Ethanol was distilled off under reduced pressure. The residue was made alkaline by addition of saturated aqueous sodium hydrogencarbonate and then to the alkaline solution was added 20 ml of water to precipitate a crystalline product. The product was collected by filtration and washed successively with two portions of water and each one portion of chilled ethanol and ether to give 990 mg of the desired compound as a white crystalline powder, yield 05.5 %.

reactant | 2-mercaptoimidazole | 6.9 mmol, 693 mg | SC=1NC=CN1 | C3H4N2S
reactant | 2-methylaminobenzyl chloride hydrochloride | 6.9 mmol, 1.33 g | Cl.CNC1=C(CCl)C=CC=C1
solvent | ethanol | 26 ml | C(C)O | C2H6O
product | 2-(2-methylaminobenzylthio)imidazole | 990 mg | CNC1=C(CSC=2NC=CN2)C=CC=C1 | C11H13N3S
